US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-methanesulfonylaminocarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-hydroxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (480 mg, 0.75 mmol) and CDI (242 mg, 1.5 mmol) in DMF (5 mL) was heated at 60° C. for 2 h. Then to this solution was added a mixture of methanesulfonamide (712 mg, 7.5 mmol) and NaH (300 mg, 60%, 7.5 mmol) in DMF (5 mL), which had been stirred at room temperature for 2 h. After the resulting mixture was stirred at room temperature for 1 h, it was poured into water and the aqueous solution was acidified by concentrated HCl solution. After the aqueous phase was extracted with EtOAc twice, the combined organic layers were dried over anhydrous Na2SO4, concentrated and the residue was purified by flash column to give the title compound as a white solid (300 mg).

reactant | racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-hydroxycarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.75 mmol, 480 mg | BrC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)O)CC)=O)C1=C(C=CC(=C1)F)C)=O | C31H29BrClFN2O5
reactant | CDI | 1.5 mmol, 242 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 7.5 mmol, 712 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 7.5 mmol, 300 mg | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Racemic (2′S,3S,4′R)-6-bromo-4′-[5-chloro-2-(1-ethyl-1-methanesulfonylaminocarbonyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 300 mg | BrC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(C(=O)NS(=O)(=O)C)CC)=O)C1=C(C=CC(=C1)F)C)=O | C32H32BrClFN3O6S
